US05123951
In a manner similar to the procedure described in Example I, 2-amino-4-methylthiazole was reacted with ethyl malonyl chloride employing triethylamine as the acid acceptor in tetrahydrofuran solution. The ethyl 3-[(4-methylthiazol-2-yl)amino]-3-oxopropanoate product (7.5 grams, 0.03 mole) was obtained as an off-white solid having a melting point of 138° C.-141° C.

reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
reactant | ethyl malonyl chloride | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 3-[(4-methylthiazol-2-yl)amino]-3-oxopropanoate | 0.03 mole, 7.5 grams | CC=1N=C(SC1)NC(CC(=O)OCC)=O | C9H12N2O3S
